US07741351B2
N-{5-[3-(1,1-dioxido-2-isothiazolidinyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide
A mixture of N-[5-(3-aminophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (100 mg, 0.30 mmol), and diisopropylethylamine (79 mg, 0.61 mmol), in dry dimethylformamide (2 ml) was treated with 3-chloropropanesulfonyl chloride (54 mg, 0.30 mmol) and stirred at room temperature for 1 h. Sodium hydride (60% dispersion in oil, 15 mg, 0.38 mmol) was added and the mixture stirred at 60° C. for 0.5 h. The reaction mix was cooled then partitioned between dichloromethane and 0.5M hydrochloric acid, and the organic layer was evaporated under reduced pressure to give a brown oil which was purified by column chromatography on a 5 g isolute silica sep-pak column eluting from 0-50% ethyl acetate in 40-60° C. petroleum ether to give the title compound as a yellow oil (12 mg, 9%).

reactant | N-[5-(3-aminophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 0.30 mmol, 100 mg | NC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C18H22N2O2S
reactant | diisopropylethylamine | 0.61 mmol, 79 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chloropropanesulfonyl chloride | 0.30 mmol, 54 mg | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | Sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{5-[3-(1,1-dioxido-2-isothiazolidinyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide | 12 mg, 9% | O=S1(N(CCC1)C=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C)=O | C21H26N2O4S2
